US07179819B2
To a stirred solution of ethyl 4-aminophenylacetate (1.13 g, 6.31 mmol) and Et3 N (965 ml, 6.92 mmol) in THF (10 ml) was added 2-trifluoromethylphenyl isocyanate (953 ml, 6.31 mmol) and the reaction mixture was stirred at room temperature for 2 days. Resulting precipitate was collected under a reduced pressure and the filtrate was washed with n-hexane to give ethyl 4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate (1.93 g, 84%) as white needles. mp 137–139° C.; 1H-NMR (CDCl3) δ 1.25–1.29 (m, 3 H), 3.59 (s, 2 H), 4.15–4.20 (m, 2 H), 7.05 (br s, 1 H), 7.13–7.23 (m, 6 H), 7.47–7.51 (m, 1 H), 7.54–7.56 (m, 1 H), 8.01–8.03 (m, 1 H).

reactant | ethyl 4-aminophenylacetate | 6.31 mmol, 1.13 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | 2-trifluoromethylphenyl isocyanate | 6.31 mmol, 953 ml | FC(C1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl 4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate | 1.93 g, 84% | FC(C1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)OCC)=O)(F)F | C18H17F3N2O3
